US07176205B2
c) (6′-Chloro-2-methyl-[3,4′]bipyridinyl-3′-yl)-methyl-amine
To a solution of 0.14 g (0.42 mmol) (6′-chloro-2-methyl-[3,4′]bipyridinyl-3′-yl)-methyl-carbamic acid tert-butyl ester in 1.2 ml dichloromethane were added 0.40 ml (5.2 mmol) trifluoroacetic acid at room temperature. The reaction mixture was stirred at this temperature for 1.5 h. After addition of a 2 M aqueous sodium hydroxide solution the mixture was extracted with three portions of dichloromethane. The combined organic layers were dried over sodium sulfate and concentrated. Flash chromatography gave 66 mg (68%) of the title compound.

reactant | (6′-chloro-2-methyl-[3,4′]bipyridinyl-3′-yl)-methyl-carbamic acid tert-butyl ester | 0.42 mmol, 0.14 g | C(C)(C)(C)OC(N(C)C=1C=NC(=CC1C=1C(=NC=CC1)C)Cl)=O | C17H20ClN3O2
reactant | trifluoroacetic acid | 5.2 mmol, 0.40 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium hydroxide | 2 M | [OH-].[Na+]
solvent | dichloromethane | 1.2 ml | ClCCl | CH2Cl2
product | (6′-Chloro-2-methyl-[3,4′]bipyridinyl-3′-yl)-methyl-amine | 66 mg, 68% | ClC1=CC(=C(C=N1)NC)C=1C(=NC=CC1)C | C12H12ClN3
